US08314109B2
A mixture of 4 g of ethyl 6-iodoimidazo[1,2-a]pyridine-2-carboxylate, 2.63 mL of ethynyltrimethylsilane and 888 mg of dichlorobis(triphenylphosphine)palladium is degassed under vacuum. 240 mg of degassed N,N-dimethylformamide and 3.52 mL of triethylamine are added. The reaction mixture is degassed under argon, stirred at 50° C. for 50 hours and then cooled and diluted with 20 mL of water. The precipitate is filtered off by suction and washed with 5 mL of water and then chromatographed on silica, eluting with mixtures of ethyl acetate and hexane (from 50/50 to 90/10). The fractions containing the expected product are combined and concentrated to dryness under reduced pressure to give 3.6 g of ethyl 6-[(trimethylsilyl)ethynyl]imidazo[1,2-a]pyridine-2-carboxylate in the form of an off-white solid.

reactant | ethyl 6-iodoimidazo[1,2-a]pyridine-2-carboxylate | 4 g | IC=1C=CC=2N(C1)C=C(N2)C(=O)OCC | C10H9IN2O2
reactant | ethynyltrimethylsilane | 2.63 mL | C(#C)[Si](C)(C)C | C5H10Si
catalyst | dichlorobis(triphenylphosphine)palladium | 888 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | ethyl 6-[(trimethylsilyl)ethynyl]imidazo[1,2-a]pyridine-2-carboxylate | 3.6 g | C[Si](C)(C)C#CC=1C=CC=2N(C1)C=C(N2)C(=O)OCC | C15H18N2O2Si
